US03950364
2 Moles of trichlorosilane were heated in a common laboratory stirring vessel to 55°C. 0.1 ml of an 0.01 molar solution of mesityl oxide-platinum dichloride complex catalyst in acetone was added, and 2 moles of allyl methacrylate was added drop by drop under nitrogen over a period of 10 minutes with intense stirring. The internal temperature was in the meantime kept below 62°C by external cooling. After another 8 minutes of stirring at about 60°C, no more silane hydrogen could be detected. Distillation of the product yielded 3-methacryloxypropyltrichlorosilane, (BP0.5 =66°C) in a yield of about 97%, with a residue of about 2%.

reactant | trichlorosilane | 2 Moles | Cl[SiH](Cl)Cl | Cl3HSi
reactant | allyl methacrylate | 2 moles | C(C(=C)C)(=O)OCC=C | C7H10O2
reactant | silane hydrogen | [SiH4].[H][H]
solvent | acetone | CC(=O)C | C3H6O
product | 3-methacryloxypropyltrichlorosilane | yield of about 97% | C(C(=C)C)(=O)OCCC[Si](Cl)(Cl)Cl | C7H11Cl3O2Si
